US09371336B2
To a suspension of t-butyl 4-(3-(7-methylimidazo[1,2-a]pyridin-2-yl)-2-oxo-2H-pyrano[3,2-c]pyridin-7-yl)piperazine-1-carboxylate (115 mg, 0.25 mmol) in CH2Cl2 (2 mL) was added 4N HCl in dioxane (1 mL). The mixture was stirred for 2 hours, and then filtered. The solid was washed with ether and dried under nitrogen to give 3-(7-methylimidazo[1,2-a]pyridin-2-yl)-7-(piperazin-1-yl)-2H-pyrano[3,2-c]pyridin-2-one hydrochloride quantitatively which was used in the next step without further purification. MS m/z 362.2 [M+H]+.

reactant | t-butyl 4-(3-(7-methylimidazo[1,2-a]pyridin-2-yl)-2-oxo-2H-pyrano[3,2-c]pyridin-7-yl)piperazine-1-carboxylate | 0.25 mmol, 115 mg | CC1=CC=2N(C=C1)C=C(N2)C2=CC=1C=NC(=CC1OC2=O)N2CCN(CC2)C(=O)OC(C)(C)C | C25H27N5O4
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 3-(7-methylimidazo[1,2-a]pyridin-2-yl)-7-(piperazin-1-yl)-2H-pyrano[3,2-c]pyridin-2-one hydrochloride | Cl.CC1=CC=2N(C=C1)C=C(N2)C2=CC=1C=NC(=CC1OC2=O)N2CCNCC2 | InChI=1S/C20H19N5O2.ClH/c1-13-2-5-25-12-16(23-19(25)8-13)15-9-14-11-22-18(10-17(14)27-20(15)26)24-6-3-21-4-7-24;/h2,5,8-12,21H,3-4,6-7H2,1H3;1H
